US06265575B1
Part B. Methyl 3-Bromo-4-[(1-pyrrolidinyl)methyl]benzoate
Methyl 3-bromo-4-bromomethylbenzoate (0.61 g; 2.0 mmol) (Part A) was dissolved in THF (10 mL) and pyrrolidine (0.66 mL; 7.9 mmol) was added at room temperature. The mixture was stirred overnight at room temperature, then poured into 80 mL of saturated aqueous aqueous sodium bicarbonate. Extraction was carried out with EtOAc (3×35 mL). The combined organics were washed with brine and dried by passage through sodium sulfate. The product was isolated as a colorless oil (0.46 g; 80% yield) by flash chromatography on silica gel eluting with EtOAc.

reactant | Methyl 3-bromo-4-bromomethylbenzoate | 2.0 mmol, 0.61 g | BrC=1C=C(C(=O)OC)C=CC1CBr | C9H8Br2O2
reactant | pyrrolidine | 7.9 mmol, 0.66 mL | N1CCCC1 | C4H9N
reactant | sodium bicarbonate | 80 mL | C([O-])(O)=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Methyl 3-Bromo-4-[(1-pyrrolidinyl)methyl]benzoate | 80% yield | BrC=1C=C(C(=O)OC)C=CC1CN1CCCC1 | C13H16BrNO2
